Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
transient visual changes and aphasia
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
This is a ___ year old man with only known medical history of
"leaky bowel syndrome" who presents with acute onset visual
change. Patient reports that he was in his usual state of health
this evening, getting ready for dinner at around 1800 when he
suddenly noticed that he could not see what was on the computer
screen in front of him. He described the sensation as if his
contact lens had folded over onto themselves. He wasn't sure if
he lost a field of vision and says he did not see black, he just
said things looked distorted. He walked up stairs to try and
adjust his contacts. He took out his left contact and noticed
that his vision did not improve. He then told his wife, who sat
him down on the couch. 

At this point, he does not remember much of the course of 
events,
although he notes that he recalls that the paramedics were there
and he was speaking with them. His wife notes that he at this
time became perseverative with slurred speech, saying
"3...3....3" over again but not saying anything else. She also
noticed a left facial droop at that time. He was taken to an OSH
where CT was negative for acute hemorrhage. As soon as he came
back to his room in the OSH from the CT, he noticed that his
symptoms had resolved - he was now able to speak normally to his
family, his face was no longer as droopy per his wife, and his
vision was normal. Interestingly, his speech was the last to
return to normal. His symptoms lasted a total of 90 minutes. 
  
 
On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies difficulties
producing or comprehending speech.  Denies focal weakness,
numbness, parasthesiae. No bowel or bladder incontinence or
retention. Denies difficulty with gait.
 
On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
"leaky bowel syndrome"
 
Social History:
___
Family History:
Father with thalamic stroke.
 
Physical Exam:
ADMISSION EXAM:
Physical Exam: 
Vitals: afrebrile, HR 78, BP 135/82, RR 17, 96%RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward with 
one
error (skipped ___). Language is fluent with intact repetition
and comprehension. Normal prosody. There were no paraphasic
errors. Pt was able to name both high and low frequency objects. 

Reading was slightly difficult as patient only had contact lens
in right eye but could read up close and with each eye closed.
Speech was not dysarthric. Able to follow both midline and
appendicular commands. There was no evidence of apraxia or
neglect.
-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation and finger
counting. Visual acuity not accurate (only has one contact 
lens).
Fundoscopic exam revealed no papilledema, exudates, or
hemorrhages.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.No adventitious movements, such as tremor, noted. No
asterixis noted.
Left deltoid ___, left triceps ___, left wrist extension ___/
left FF ___, left IP ___. Remaining motor exam full strength.

-Sensory: No deficits to light touch or cold sensation. No
extinction to DSS. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was mute bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: Deferred

=================
DISCHARGE EXAM:

 
Pertinent Results:
___ 09:16AM BLOOD Triglyc-114 HDL-45 CHOL/HD-4.7 
LDLcalc-145*
___ 06:20AM BLOOD ___ Titer-1:40* CRP-2.2
___ 06:20AM BLOOD TSH-1.5
___ 06:20AM BLOOD D-Dimer-372
___ 06:20AM BLOOD %HbA1c-5.5 eAG-111
___ 06:15AM BLOOD WBC-7.4 RBC-4.93 Hgb-15.2 Hct-44.5 MCV-90 
MCH-30.8 MCHC-34.2 RDW-13.1 RDWSD-43.1 Plt ___
___ 06:15AM BLOOD Glucose-100 UreaN-20 Creat-1.0 Na-141 
K-4.3 Cl-104 HCO3-26 AnGap-11
Anti-thrombin 95 (normal 80-120)

US Lower Extremities ___:
No evidence of deep venous thrombosis in the right or left lower 
extremity 
veins. 

ECHO ___:
The left atrium is normal in size. No left atrial mass/thrombus 
seen (best excluded by transesophageal echocardiography). No 
atrial septal defect is seen on color flow Doppler, but there is 
early appearance of agitated saline/microbubbles in the left 
atrium/ventricle at rest most consistent with an atrial septal 
defect or stretched patent foramen ovale (though a very proximal 
intrapulmonary shunt cannot be fully excluded). Left ventricular 
wall thicknesses and cavity size are normal. Regional left 
ventricular wall motion is normal. Overall left ventricular 
systolic function is normal (LVEF 55%). No masses or thrombi are 
seen in the left ventricle. There is no ventricular septal 
defect. Right ventricular chamber size is normal with borderline 
normal free wall function. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion and 
no aortic stenosis or aortic regurgitation. No masses or 
vegetations are seen on the aortic valve. The mitral valve 
appears structurally normal with trivial mitral regurgitation. 
There is no mitral valve prolapse. No mass or vegetation is seen 
on the mitral valve. The estimated pulmonary artery systolic 
pressure is normal. There is no pericardial effusion. 

 IMPRESSION: Saline seen in the left heart at after 2 beats at 
rest suggesting very small ASD (no color doppler flow across 
septum) versus stretched PFO. No intracardiac masses. 

MRA Brain/Neck ___:
1. Study is mildly degraded by motion. 
2. No evidence of bilateral carotid or vertebral artery 
high-grade stenosis, 
vessel occlusion, aneurysm, or dissection. 

MRI Head ___:
Focus of restricted diffusion in the left thalamus with 
associated 
hyperintense signal on T2 and FLAIR sequences compatible with a 
late acute to subacute infarction. 

 
Brief Hospital Course:
___ with hx leaky bowel syndrome with transient changes 
including vision, language (perseveration), and confusion. MRI 
shows late acute L medial thalamic infarct. Found to have small 
PFO during admission, and undergoing workup for paradoxical 
embolus and hypercoagulability workup given young age and few 
risk factors. The etiology of stroke is unclear at this point.

# Ischemic Stroke: Patient was found to have L medial thalamic 
infarct on MRI. Initial CTA showed possible abnormality of left 
vertebral artery; however MRA with fat suppression confirmed 
normal vasculature without dissection. Hypercoagulability workup 
was sent and was pending at time of discharge. Patient had 
normal inflammatory markers and no D-dimer elevation. 
Echocardiogram was positive for small PFO vs ASD. Lower 
extremity ultrasounds were performed to evaluate for source of 
paradoxical embolism but were negative. Given low likelihood of 
venous clot with negative Ddimer, MRV abdomen pelvis for venous 
clot was scheduled in the outpatient setting. Patient was 
started on aspirin and atorvastatin during admission (LDL 147) 
to minimize stroke risk.

===================
Transitional Issues:
[ ] outpatient MRV abdomen/pelvis for source of paradoxical 
embolism
[ ] patient was discharged with cardiac monitor for atrial 
fibrillation, to be followed up in neurology
[ ] follow up with neurology

==================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
 1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No  
 2. DVT Prophylaxis administered? (x) Yes - () No  
 3. Antithrombotic therapy administered by end of hospital day 
2? (x) Yes - () No  
 4. LDL documented? (x) Yes (LDL = 145) - () No  
 5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL   
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
 7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
 8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
 9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
 10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
 11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A  

35 minutes were spent on discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. L-Arginine(alpha-ketoglutarat) (arginine oxoglurate) 350 mg 
PO BID 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*11 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*11 
3.  L-Arginine(alpha-ketoglutarat) (arginine oxoglurate) 350 mg 
PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ischemic Stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

 You were hospitalized due to symptoms of vision change, 
language change, and confusion resulting from an ACUTE ISCHEMIC 
STROKE, a condition where a blood vessel providing oxygen and 
nutrients to the brain is blocked by a clot. The brain is the 
part of your body that controls and directs all the other parts 
of your body, so damage to the brain from being deprived of its 
blood supply can result in a variety of symptoms.  

 Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
 hyperlipidemia

 We are changing your medications as follows:  
 Please take aspirin and statin.
  
 Please take your other medications as prescribed.  
 Please follow up with Neurology and your primary care physician 
as listed below.  

 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body

 Sincerely,  
 Your ___ Neurology Team  
 
Followup Instructions:
___